US07109229B2
(d) 5H,7H,13H-indolo[6,7-a]-pyrrolo[3,4-c]-carbazole-6,8-dione
A solution of 3-(1H-indol-7-yl)-4-(1H-indol-3-yl)-pyrrole-2,5-dione (140 mg, 0.428 mmol) and iodine (114 mg, 0.449 mmol) in dioxane (200 mL) was photolyzed with a 450 W Hanovia lamp fitted with pyrex filter for 20 minutes. The mixture was concentrated to ˜20 mL, poured into EtOAc and washed with 10% aq NaHSO3, water (3×), saturated aq NaHCO3, and brine, dried (MgSO4), filtered and concentrated onto SiO2. Flash Chromatography (30% EtOAc/hexanes) afforded the title compound as an orange powder which was dried under vacuum at 70° C. for overnight (66 mg, 47%). 1H NMR (400 MHz, DMSO-d6) 12.78 (s, 1H), 12.62 (s, 1H), 11.51 (S, 1H), 8.96 (d, J=8 Hz, 1H), 8.31 (d, J=8 Hz, 1H), 8.10 (d, J=8 Hz, 1H), 7.70–7.76 (m, 2H), 7.56 (dd, J=8, 8 Hz, 1H), 7.38 (dd, J=8, 8 Hz, 1H), 6.81 (br s, 1H). MS (electrospray, m/z) 326 (M++1), 324 (M−−1) 324. HRMS 326.0941 (M++1, calcd for C20H12N3O2 326.0930).

reactant | 3-(1H-indol-7-yl)-4-(1H-indol-3-yl)-pyrrole-2,5-dione | 0.428 mmol, 140 mg | N1C=CC2=CC=CC(=C12)C=1C(NC(C1C1=CNC2=CC=CC=C12)=O)=O | C20H13N3O2
reactant | iodine | 0.449 mmol, 114 mg | II | I2
reactant | dioxane | 200 mL | O1CCOCC1 | C4H8O2
product | 5H,7H,13H-indolo[6,7-a]-pyrrolo[3,4-c]-carbazole-6,8-dione | C=1C=NC=2C1CC=C1C2C=2C(=C3C=4CC(C=CC4N=C13)=O)C(NC2)=O | C20H11N3O2
